US05990101
A 1 ml portion of ice-cooled water and 0.5 ml of 5N hydrochloric acid were added to a mixture of 200 mg of 3-aminomethylimidazo[5,1-b]thiazole and 0.5 g of ice, and the mixture was then stirred at 80° C. for 5 minutes. To this solution, 254 mg of sodium cyanate was added, followed by stirring at the same temperature for 1 hour. After cooled to room temperature, the reaction solution was washed once with diethyl ether. Further, potassium carbonate was added to the separated aqueous layer to alkalify the same, and methanol was further added thereto. The solution was sufficiently stirred, and then filtered to remove impurities therefrom. The resulting filtrate was concentrated under reduced pressure, and then allowed to stand at 0° C. overnight. Afterward, the precipitated crystal was collected by filtration to obtain 38 mg of 3-ureidomethylimidazo[5,1-b]thiazole. Furthermore, the mother liquor from which the crystal was collected by the filtration was purified by a column chromatograph of Diaion HP-20 Resin to obtain 49 mg of the title compound.

reactant | hydrochloric acid | 5N, 0.5 ml | Cl | ClH
reactant | 3-aminomethylimidazo[5,1-b]thiazole | 200 mg | NCC=1N2C(SC1)=CN=C2 | C6H7N3S
reactant | sodium cyanate | 254 mg | [O-]C#N.[Na+]
solvent | water | O | H2O
product | 3-ureidomethylimidazo[5,1-b]thiazole | 38 mg | N(C(=O)N)CC=1N2C(SC1)=CN=C2 | C7H8N4OS
